US07582657B2
(2E)-3-[4-(tert-Butyl)phenyl]-N-[1-(N-methylcarbamoyl)(1H-indazol-6-yl)]prop-2-enamide.
To a round-bottomed flask, equipped with a magnetic stir bar, was added (2E)-N-(1H-indazol-6-yl)-3-[4-(tert-butyl)phenyl]prop-2-enamide, Example 155, (61 mg, 0.19 mmol), THF (8 mL) and isocyanatomethane (54 mg, 0.96 mmol, Carbolabs). The reaction mixture was stirred at room temperature for 8 h. The reaction mixture was diluted with EtOAc (10 mL), washed with water (8 mL), dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (40:20:1 hexane:EtOAc:MeOH) provided the title product as an off-white solid. MP 208-209° C. MS (ESI, pos. ion) m/z: 377 (M+1).

reactant | (2E)-N-(1H-indazol-6-yl)-3-[4-(tert-butyl)phenyl]prop-2-enamide | N1N=CC2=CC=C(C=C12)NC(\C=C\C1=CC=C(C=C1)C(C)(C)C)=O | C20H21N3O
reactant | THF | 0.19 mmol, 8 mL, 61 mg | C1CCOC1 | C4H8O
reactant | isocyanatomethane | 0.96 mmol, 54 mg | N(=C=O)C | C2H3NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (2E)-3-[4-(tert-Butyl)phenyl]-N-[1-(N-methylcarbamoyl)(1H-indazol-6-yl)]prop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC=C2C=NN(C2=C1)C(NC)=O | C22H24N4O2
